* Generated by generate_dielectric_netlists.py for case 1-4-15
* C:\Users\ryota\Documents\DoctoralResearch\src\JPE_circuit_model\examples\JPE_3stacks.asc
V Ndc 0 PWL(0 0 1 3 2 0)
R_fg N006 Ndc 50
L_ext N004 N006 10m
R_ext N002 N004 1.15
L_mid N001 N002 10m
L_rad N003 N005 6.3986u
R_rad Nd N003 8.5994
C_rad N005 Na 10.498n
R_gnd Na 0 7.2
V§T_bath N007 0 -26.295
R_th T N007 7162.3
C_th T N007 100n
R_mid Nd N001 8.29

* Stack configuration: 1-4-15
XX001 Nd Nc T 0 1stack params: M=14.4371 N=40 I_c=12m R=105.215m L=186.728n C=1.75396u
XX002 Nc Nb_s01 T 0 1stack params: M=20.1451 N=43 I_c=18m R=75.4028m L=133.819n C=2.44743u
XX003 Nb_s01 Nb_s02 T 0 1stack params: M=20.1451 N=43 I_c=18m R=75.4028m L=133.819n C=2.44743u
XX004 Nb_s02 Nb_s03 T 0 1stack params: M=20.1451 N=43 I_c=18m R=75.4028m L=133.819n C=2.44743u
XX005 Nb_s03 Nb T 0 1stack params: M=20.1451 N=43 I_c=18m R=75.4028m L=133.819n C=2.44743u
XX006 Nb Na_s01 T 0 1stack params: M=20.201 N=43 I_c=18.05m R=75.1941m L=133.449n C=2.45423u
XX007 Na_s01 Na_s02 T 0 1stack params: M=20.201 N=43 I_c=18.05m R=75.1941m L=133.449n C=2.45423u
XX008 Na_s02 Na_s03 T 0 1stack params: M=20.201 N=43 I_c=18.05m R=75.1941m L=133.449n C=2.45423u
XX009 Na_s03 Na_s04 T 0 1stack params: M=20.201 N=43 I_c=18.05m R=75.1941m L=133.449n C=2.45423u
XX010 Na_s04 Na_s05 T 0 1stack params: M=20.201 N=43 I_c=18.05m R=75.1941m L=133.449n C=2.45423u
XX011 Na_s05 Na_s06 T 0 1stack params: M=20.201 N=43 I_c=18.05m R=75.1941m L=133.449n C=2.45423u
XX012 Na_s06 Na_s07 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX013 Na_s07 Na_s08 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX014 Na_s08 Na_s09 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX015 Na_s09 Na_s10 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX016 Na_s10 Na_s11 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX017 Na_s11 Na_s12 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX018 Na_s12 Na_s13 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX019 Na_s13 Na_s14 T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u
XX020 Na_s14 Na T 0 1stack params: M=20.682 N=42 I_c=18.05m R=73.4454m L=130.345n C=2.51266u

* block symbol definitions
.subckt 1stack in out P_out P_in
B§IJJ in out I={I_c}*sin(V(Phi))
B§R_int in out I={M}*((V(in)-V(out))/({alpha}*(exp(-1*(V(P_out)-V(P_in))/{beta})+exp(-1*(V(P_out)-V(P_in))**2/{gamma}))+{delta}))
R in N001 {R}
C Nlc out {C}
B§P P_in P_out I=(V(in)-V(out))*I(R_int)
B§V_t 0 Phi I=(V(in)-V(out))/{N}
C§h/2e Phi 0 329.1p
L N001 Nlc {L}
.ic V(Phi)=0 V(Nlc)=0
.ends 1stack

.param alpha=140.26 beta=74.429 gamma=2993.7 delta=14.966
.tran 0 2 0 10u
.ic V(Nd)=0 V(Nc)=0 V(Nb_s01)=0 V(Nb_s02)=0 V(Nb_s03)=0 V(Nb)=0
+ V(Na_s01)=0 V(Na_s02)=0 V(Na_s03)=0 V(Na_s04)=0 V(Na_s05)=0 V(Na_s06)=0
+ V(Na_s07)=0 V(Na_s08)=0 V(Na_s09)=0 V(Na_s10)=0 V(Na_s11)=0 V(Na_s12)=0
+ V(Na_s13)=0 V(Na_s14)=0 V(Na)=0
.backanno
.end
